US08859541B2
C3e) 4-methoxy-6-(2-phenylethynyl)-5-pyrimidin-5-ylpyridin-2-amine
A mixture of 4-chloro-6-(2-phenylethynyl)-5-pyrimidin-5-ylpyridin-2-amine C3c (400 mg, 1.3 mmol), sodium methoxide (a solution of 2.61 mmol in 0.29 ml MeOH) and MeOH (2 ml) is stirred for 20 minutes at 100° C. and 10 minutes at 110° C. The mixture is diluted with water and extracted with DCM. The combined organic layers are dried over Na2SO4, concentrated in vacuo and the product purified by NP chromatography. Yield: 228 mg (58%). HPLC-MS: M+H=303.

reactant | 4-chloro-6-(2-phenylethynyl)-5-pyrimidin-5-ylpyridin-2-amine | ClC1=CC(=NC(=C1C=1C=NC=NC1)C#CC1=CC=CC=C1)N | C17H11ClN4
reactant | sodium methoxide | C[O-].[Na+]
solvent | MeOH | 0.29 ml | CO | CH4O
solvent | water | O | H2O
solvent | MeOH | 2 ml | CO | CH4O
product | 4-methoxy-6-(2-phenylethynyl)-5-pyrimidin-5-ylpyridin-2-amine | COC1=CC(=NC(=C1C=1C=NC=NC1)C#CC1=CC=CC=C1)N | C18H14N4O
